*March 20, 2006
*Doc. ID: 79250, S-60408, Rev. C
*File Name: Si1034X_PS.txt and Si1034X_PS.lib
*This document is intended as a SPICE modeling guideline and does not
*constitute a commercial product data sheet.  Designers should refer to the
*appropriate data sheet of the same number for guaranteed specification
*limits.
.SUBCKT Si1034X 4 1 2
M1   3 5 2 2 NMOS W=29549u L=0.50u 
M2   2 5 2 4 PMOS W=29549u L=0.95u 
R1   4 3     RTEMP 130E-3 
CGS  5 2     41E-12
DBD  2 4     DBD
XESD 1 5 2   esd_nch
************************************************************  
.MODEL  NMOS         NMOS (LEVEL  = 3        TOX    = 1.7E-8
+ RS     = 280E-3          RD     = 0        NSUB   = 1.5E17   
+ KP     = 5.6E-5          UO     = 650             
+ VMAX   = 0               XJ     = 5E-7     KAPPA  = 10E-2
+ ETA    = 1E-4            TPG    = 1  
+ IS     = 0               LD     = 0                             
+ CGSO   = 0               CGDO   = 0        CGBO   = 0 
+ NFS    = 0.8E12          DELTA  = 0.1)
************************************************************  
.MODEL  PMOS         PMOS (LEVEL  = 3        TOX    = 1.7E-8
+NSUB    = 2.6E16          TPG    = -1)   
************************************************************  
.MODEL DBD D (CJO=32E-12 VJ=0.38 M=0.30
+RS=1 FC=0.1 IS=1E-12 TT=4E-8 N=1 BV=20.5)
************************************************************ 
.MODEL RTEMP RES (TC1=10E-3 TC2=5.5E-6)
************************************************************  
.ENDS Si1034X
.subckt esd_nch 1 5 2
rd1 1 6 1 TC=300
d1  6 2 dleak  
.MODEL dleak d (IS=3E-9 XTI=350 EG=1.17 T_MEASURED=25 TBV1=0 N=34 BV=6.4) 
rd2 1 7 34 TC=-0.0002
d2 8 7 dout  
d3 8 2 dout  
.MODEL dout D (IS=5.1E-9 XTI=-35 EG=1.17 T_MEASURED=25 TBV1=5.64e-4 N=2 BV=6.38)
rpoly 1 5 100 TC=0.001
rd4 5 9 100 TC=-0.015
d4 10 9 din  
d5 10 2 din  
.MODEL din D (IS=5.1E-9 XTI=-30 EG=1.17 T_MEASURED=25 TBV1=1.76e-4 N=1.5 BV=6.25)
.ends esd_nch


